US06518423B1
[1-[10-(Methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl]-5-methylimidazol-4-yl]carboxamide
To a solution of 0.7 g of ethyl[1-[10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl]-5-methylimidazol-4-yl]carboxylate in tetrahydrofuran (10 ml) was added 50 ml of aqueous ammonia. After sealing, the resulting mixture was heated to 100° C. for 24 hours.

reactant | ethyl[1-[10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl]-5-methylimidazol-4-yl]carboxylate | 0.7 g | C(C)OC(=O)C=1N=CN(C1C)CC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C20H21N5O3S
reactant | ammonia | 50 ml | N | H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [1-[10-(Methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl]-5-methylimidazol-4-yl]carboxamide | COCN1C2=C(SC3=C1C=C(C=C3)CN3C=NC(=C3C)C(=O)N)N=CC=N2 | C18H18N6O2S
